US07560558B2
4-Chloro-6,7-dimethoxyquinoline (330 mg), 3-hydroxy-6-methyl-2-pyridinecarbaldehyde (200 mg), and 4-dimethylaminopyridine (360 mg) were suspended in o-dichlorobenzene (7 ml), and the suspension was stirred at 150° C. for 3 hr. The reaction solution was cooled to room temperature and was then purified by column chromatography using acetone-chloroform to give 3-[6,7-dimethoxy-4-quinolyl]oxy}-6-methyl-2-pyridinecarbaldehyde (24 mg, yield 5%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 330 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 3-hydroxy-6-methyl-2-pyridinecarbaldehyde | 200 mg | OC=1C(=NC(=CC1)C)C=O | C7H7NO2
catalyst | 4-dimethylaminopyridine | 360 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 7 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 6-methyl-2-pyridinecarbaldehyde | 24 mg, yield 5% | CC1=CC=CC(=N1)C=O | C7H7NO
